US07745438B2
3-[(1S,2S)-2-((3R,6R)-6-Cyclohexylmethoxymorpholin-3-yl)-1-(3,5-difluorobenzyl)-2-hydroxyethyl]-1-hexyl-1-methylurea hydrochloride
Add hexylmethylcarbamic chloride (11 mg, 0.062 mmol) to a solution of (2R,5R)-5-[(1S,2S)-2-amino-3-(3,5-difluorophenyl)-1-hydroxypropyl]-2-cyclohexylmethoxymorpholine-4-carboxylic acid tert-butyl ester (30 mg, 0.062 mmol) and pyridine (10 μL, 0.123 mmol) in dichloromethane at 0° C. Heat to 55° C. for four days. Perform purification, isolation, trifluoroacetic acid deprotection and salt exchange according to the procedure essentially as described for (E)-2-methyl-but-2-enoic acid [(1S,2S)-2-((3R,6R)-6-cyclohexylmethoxymorpholin-3-yl)-1-(3,5-difluorobenzyl)-2-hydroxyethyl]-amide hydrochloride.

reactant | hexylmethylcarbamic chloride | 0.062 mmol, 11 mg | C(CCCCC)N(C(=O)Cl)C | C8H16ClNO
reactant | (2R,5R)-5-[(1S,2S)-2-amino-3-(3,5-difluorophenyl)-1-hydroxypropyl]-2-cyclohexylmethoxymorpholine-4-carboxylic acid tert-butyl ester | 0.062 mmol, 30 mg | C(C)(C)(C)OC(=O)N1C[C@@H](OC[C@@H]1[C@H]([C@H](CC1=CC(=CC(=C1)F)F)N)O)OCC1CCCCC1 | C25H38F2N2O5
reactant | pyridine | 0.123 mmol, 10 μL | N1=CC=CC=C1 | C5H5N
solvent | dichloromethane | ClCCl | CH2Cl2
product | 3-[(1S,2S)-2-((3R,6R)-6-Cyclohexylmethoxymorpholin-3-yl)-1-(3,5-difluorobenzyl)-2-hydroxyethyl]-1-hexyl-1-methylurea hydrochloride | Cl.C1(CCCCC1)CO[C@@H]1OC[C@@H](NC1)[C@H]([C@H](CC1=CC(=CC(=C1)F)F)NC(N(C)CCCCCC)=O)O | InChI=1S/C28H45F2N3O4.ClH/c1-3-4-5-9-12-33(2)28(35)32-24(15-21-13-22(29)16-23(30)14-21)27(34)25-19-37-26(17-31-25)36-18-20-10-7-6-8-11-20;/h13-14,16,20,24-27,31,34H,3-12,15,17-19H2,1-2H3,(H,32,35);1H/t24-,25+,26+,27-;/m0./s1
